US04291040
3-[[(4-Methoxy)phenylmethyl]thio]-2-methylthiopropanoic acid prepared according to the procedure of Example 10 in U.S. Pat. No. 4,116,962 is treated with thionyl chloride to yield 3-[[(4-methoxy)phenylmethyl]thio]-2-methylthiopropionyl chloride.

reactant | 3-[[(4-Methoxy)phenylmethyl]thio]-2-methylthiopropanoic acid | COC1=CC=C(C=C1)CSCC(C(=S)O)C | C12H16O2S2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 3-[[(4-methoxy)phenylmethyl]thio]-2-methylthiopropionyl chloride | COC1=CC=C(C=C1)CSCC(C(=S)Cl)C | C12H15ClOS2
